US04889858
To a solution of 1.5 g of 3-fluoro-6,11-dihydrodibenz[b,e]oxepin-11-ol in 20 ml of methylene chloride is added dropwise a solution of 1.6 g of thionyl chloride in 10 ml of methylene chloride under ice cooling over 30 minutes and then the mixture is stirred at room temperature for 1 hour. The reaction mixture is concentrated at room temperature under reduced pressure to give 1.5 g of 11-chloro-3-fluoro-6,11-dihydrodibenz[b,e]oxepin (oil). Mass spectrum m/z: 248(M+)

reactant | 3-fluoro-6,11-dihydrodibenz[b,e]oxepin-11-ol | 1.5 g | FC=1C=CC2=C(OCC3=C(C2O)C=CC=C3)C1 | C14H11FO2
reactant | thionyl chloride | 1.6 g | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 11-chloro-3-fluoro-6,11-dihydrodibenz[b,e]oxepin | 1.5 g | ClC1C2=C(OCC3=C1C=CC=C3)C=C(C=C2)F | C14H10ClFO
